US04062965
a. Preparation of 1-n-hexadecyl-2-methyl-3-n-octyl-imidazole bromide
0.5 mole of 2-methyl-1-n-hexadecylimidazole is dissolved in 250 ml of i-propanol and reacted with 0.6 mole of n-octyl bromide. This is followed by a 10-hour boiling with reflux. Then the i-propanol is distilled off, together with the unreacted n-octyl bromide, and the remaining residue is washed with ether.

reactant | 2-methyl-1-n-hexadecylimidazole | 0.5 mole | CC=1N(C=CN1)CCCCCCCCCCCCCCCC | C20H38N2
reactant | n-octyl bromide | 0.6 mole | C(CCCCCCC)Br | C8H17Br
solvent | i-propanol | 250 ml | C(C)(C)O | C3H8O
product | 1-n-hexadecyl-2-methyl-3-n-octyl-imidazole bromide | [Br-].C(CCCCCCCCCCCCCCC)N1C(N(C=C1)CCCCCCCC)C | InChI=1S/C28H56N2.BrH/c1-4-6-8-10-12-13-14-15-16-17-18-19-21-23-25-30-27-26-29(28(30)3)24-22-20-11-9-7-5-2;/h26-28H,4-25H2,1-3H3;1H/p-1
